US08071592B2
(b) 4-{2-[(3S)-3-(Aminomethyl)-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one
To a solution of phenylmethyl [((3S)-1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]carbamate (0.37 g, 0.83 mmol) in MeOH (20 mL) was added 10% Pd/C (0.10 g). The solution was hydrogenated on a Parr apparatus at 50 PSI for 3 h. The Pd/C catalyst was filtered off, MnO2 (0.22 g, 2.48 mmol) was added, and the solution stirred at ambient temperature for 16 h. The MnO2 was filtered off and the crude material (yellowish oil) was used without further purification (0.26 g, 97% over 2 steps).

reactant | phenylmethyl [((3S)-1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]carbamate | 0.83 mmol, 0.37 g | COC=1C=CC2=C(N(C(C=N2)=O)CCN2C[C@@H](CCC2)CNC(OCC2=CC=CC=C2)=O)N1 | C24H29N5O4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
catalyst | MnO2 | 2.48 mmol, 0.22 g | O=[Mn]=O
product | 4-{2-[(3S)-3-(Aminomethyl)-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | NC[C@H]1CN(CCC1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C16H23N5O2
